US04119710
1-(4'-Amino-3'-cyano-5'-fluoro-phenyl)-2-tert.butylamino-ethanol,
m.p. of the hydrochloride: 242°-243° C. (decomp.), was prepared from 4'-amino-2-tert.butylamino-3'-cyano-5'-fluoroacetophenone analogous to Example 49.

reactant | hydrochloride | Cl | ClH
reactant | 4'-amino-2-tert.butylamino-3'-cyano-5'-fluoroacetophenone | NC1=C(C=C(C=C1F)C(CNC(C)(C)C)=O)C#N | C13H16FN3O
product | 1-(4'-Amino-3'-cyano-5'-fluoro-phenyl)-2-tert.butylamino-ethanol | NC1=C(C=C(C=C1F)C(CNC(C)(C)C)O)C#N | C13H18FN3O
